US06420349B1
Methyl-4-morpholinophenyl acetate
Nitrogen was bubbled through a mixture of methyl4-(trifluoromethylsulfonyloxy)phenyl acetate (1.0 g, 3.35 mmol), cesium carbonate (1.6 g, 4.69 mmol), palladium (II) acetate (22 mg, 0.10 mmol), (S)-BINAP (93 mg, 0.15 mmol), and morpholine (0.35 mL, 4.02 mmol) in 8 mL toluene and the reaction mixture was heated to 80° C. for 6 hours. The reaction was then cooled, celite was added, and the mixture was concentrated. Chromatography was performed on a Biotage flash 40i chromatography module by loading the dried celite into a SIM and eluting with 20% ethyl acetate/hexanes (40S cartridge) providing 250 mg (37%) of the title compound as a yellow oil. 1H NMR (CDCl3; 300 MHz) δ7.19 (d, J=8.4 Hz, 2H), 6.87 (d, J=8.3 Hz, 2H), 3.89-3.85 (m, 4H), 3.69 (s, 3H), 3.56 (s, 2H), 3.17-3.13 (m, 4H).

reactant | methyl4-(trifluoromethylsulfonyloxy)phenyl acetate | 3.35 mmol, 1.0 g | C(C)(=O)OC1=C(C=C(C=C1)OS(=O)(=O)C(F)(F)F)C | C10H9F3O5S
reactant | cesium carbonate | 4.69 mmol, 1.6 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | (S)-BINAP | 0.15 mmol, 93 mg | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=C(C4=CC=CC=C4C=C3)C5=C(C=CC6=CC=CC=C65)P(C7=CC=CC=C7)C8=CC=CC=C8 | C44H32P2
reactant | morpholine | 4.02 mmol, 0.35 mL | N1CCOCC1 | C4H9NO
solvent | toluene | 8 mL | C1(=CC=CC=C1)C | C7H8
catalyst | palladium (II) acetate | 0.10 mmol, 22 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | Methyl-4-morpholinophenyl acetate | 250 mg, 37% | C(C)(=O)OC1=C(C=C(C=C1)N1CCOCC1)C | C13H17NO3
